US06310086B1
To a solution of (R)-3-[7-carbamoyl-5-[2-[[2-(2-ethoxyphenoxy)ethyl]amino]propyl]-1H-indol-1-yl]propyl pivalate (6.07 g) in ethanol (58 ml) was added dropwise 1N hydrochloric acid (11.6 ml) under ice-cooling with stirring, and the mixture was stirred for 15 minutes under the same condition. The reaction mixture was concentrated in vacua, and to the residue was added ethanol. After azeotropic removal of water, the residue was dissolved in ethanol (6 ml) and ethyl acetate (60 ml) was added to the solution. After the mixture was allowed to stand for 16 hours at room temperature, the resulting colorless crude crystals (5.14 g) were obtained. After the crystals were combined with another crude crystals obtained similarly, recrystallization of the combined crystal (8.12 g) from ethanol/ethyl acetate (15/1) gave (R)-3-[7-carbamoyl-5-[2-[[2-(2-ethoxyphenoxy)ethyl]amino]propyl]-1H-indol-1-yl]propyl pivalate hydrochloride (7.46 g) as colorless crystals.

reactant | (R)-3-[7-carbamoyl-5-[2-[[2-(2-ethoxyphenoxy)ethyl]amino]propyl]-1H-indol-1-yl]propyl pivalate | 6.07 g | C(C(C)(C)C)(=O)OCCCN1C=CC2=CC(=CC(=C12)C(N)=O)C[C@@H](C)NCCOC1=C(C=CC=C1)OCC | C30H41N3O5
reactant | hydrochloric acid | 1N, 11.6 ml | Cl | ClH
solvent | ethanol | 58 ml | C(C)O | C2H6O
product | (R)-3-[7-carbamoyl-5-[2-[[2-(2-ethoxyphenoxy)ethyl]amino]propyl]-1H-indol-1-yl]propyl pivalate hydrochloride | 7.46 g | Cl.C(C(C)(C)C)(=O)OCCCN1C=CC2=CC(=CC(=C12)C(N)=O)C[C@@H](C)NCCOC1=C(C=CC=C1)OCC | InChI=1S/C30H41N3O5.ClH/c1-6-36-25-10-7-8-11-26(25)37-17-13-32-21(2)18-22-19-23-12-15-33(27(23)24(20-22)28(31)34)14-9-16-38-29(35)30(3,4)5;/h7-8,10-12,15,19-21,32H,6,9,13-14,16-18H2,1-5H3,(H2,31,34);1H/t21-;/m1./s1
